US07195752B2
[(7,7,8,8,8-Pentafluorooctyl)oxy]acetic acid
To a stirred solution of 6-(pentafluoroethyl)hexan-1-ol (500 mg) in tetrahydrofuran (10 ml) was added sodium hydride (60% dispersion in mineral oil; 118 mg) and the reaction was stirred at 20° C. for 30 mlnutes. Ethyl bromoacetate (379 mg) was added and the reaction was stirred for a further 3 hours. The reaction was quenched by the addition of ethanol (3 ml) followed by stirring for 30 mlnutes, then 2M sodium hydroxide (3 ml) was added and the reaction was stirred for a further 2 hours. The reaction mixture was partitioned between dichloromethane (100 ml) and water (100 ml). The aqueous layer was acidified to pH 1 by the addition of 2M hydrochloric acid and then extracted with dichloromethane (3×100 ml). The combined organic layers were dried over magnesium sulphate and the solvent was removed in vacuo to give the title compound as a white solid (250 mg).

reactant | 6-(pentafluoroethyl)hexan-1-ol | 500 mg | FC(C(F)(F)F)(CCCCCCO)F | C8H13F5O
reactant | sodium hydride | 118 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 379 mg | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [(7,7,8,8,8-Pentafluorooctyl)oxy]acetic acid | 250 mg | FC(CCCCCCOCC(=O)O)(C(F)(F)F)F | C10H15F5O3
